US05157041
A solution of 0.46 g of N2 -[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide in 40 ml of ethanol was hydrogenated over 40 mg of 10% palladium-on-carbon at room temperature and under atmospheric pressure for 1.5 hours to give 0.33 g of N2 -[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide as a gum which crystallized on standing.

reactant | N2 [3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 0.46 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 40 mg | [Pd] | Pd
product | N2 [3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 0.33 g | N#N.N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1 | InChI=1S/C19H31N3O2.N2/c1-18(2,3)22-11-7-10-19(22,17(21)24)13-16(23)15(20)12-14-8-5-4-6-9-14;1-2/h4-6,8-9,15-16,23H,7,10-13,20H2,1-3H3,(H2,21,24);/t15-,16+,19+;/m0./s1
